US04824859
1-(3-Trifluoromethylphenyl)-4,5-dihydro-N-(4-methoxy phenyl)-1H-pyrazol-3-amine
A mixture of 1-(3-trifluoromethylphenyl)-4,5-dihydro-1H-pyrazol-3-amine (0.23 g), 4-methoxyaniline (0.37 g) and p-toluenesulphonic acid (0.17 g) was heated in an oil bath at 140° under nitrogen for 15 minutes. The reaction was cooled, dilute hydrochloric acid and ether added and the organic phase separated, dried over sodium sulphate, filtered and evaporated to leave a yellow solid, which on trituration with pentane gave the colourless title compound (0.1 g) m.p. 127°-8°.

reactant | 1-(3-trifluoromethylphenyl)-4,5-dihydro-1H-pyrazol-3-amine | 0.23 g | FC(C=1C=C(C=CC1)N1N=C(CC1)N)(F)F | C10H10F3N3
reactant | 4-methoxyaniline | 0.37 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | p-toluenesulphonic acid | 0.17 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-(3-Trifluoromethylphenyl)-4,5-dihydro-N-(4-methoxy phenyl)-1H-pyrazol-3-amine | 0.1 g | FC(C=1C=C(C=CC1)N1N=C(CC1)NC1=CC=C(C=C1)OC)(F)F | C17H16F3N3O
